### PR TITLE
Cleanup `Require Import`s in `algebra/`

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

It does ~two things~ the following:
- removing `Require Import`s of `ssralg` and `ssrnum` (they should eventually be deprecated),
- ~removing the dependency from `orderedzmod` to `algebra`.~

~The latter change currently has the issue that `nmodule.v` does not provide the equivalent of `GRing.Theory`.~

**EDIT:** I opened another PR for the latter change: #1560.

##### Minimal TODO list

- ~[ ] added changelog entries with `doc/changelog/make-entry.sh`~

- ~[ ] added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/num_theory/orderedzmod.v [hunk 1]
```diff
@@ -693,41 +693,41 @@ move=> + xgt0; elim: n => // n IHn _; rewrite mulrS (lt_le_trans xgt0)// lerDl.
...
+  x < 0 -> {mono (@Algebra.natmul R x) : m n / (n <= m)%N >-> m <= n}.
 Proof. by move=> xlt0 m n /=; rewrite -lerN2 -!mulNrn ler_pMn2l// oppr_gt0. Qed.
 
 Lemma ltr_nMn2l x :
-  x < 0 -> {mono (@GRing.natmul R x) : m n / (n < m)%N >-> m < n}.
+  x < 0 -> {mono (@Algebra.natmul R x) : m n / (n < m)%N >-> m < n}.
 Proof. by move=> x_lt0; apply: leW_nmono (ler_nMn2l _). Qed.
 
-Fact nneg_addr_closed : addr_closed (@Num.nneg R).
+Fact nneg_addr_closed : nmod_closed (@Num.nneg R).
```
Comment (pi8027) [inline algebra/num_theory/orderedzmod.v]: Apparently, there are:
- `addr_closed S` in `nmodule.v`: `S` is closed under addition,
- `nmod_closed S` in `nmodule.v`: `S` is closed under addition and zero,
- `addr_closed S` in `algebra.v`: an alias of `nmod_closed S` in `nmodule.v` (!).

So I found it confusing. I also have a vague remembrance of a discussion about it, but I don't remember the details.

Comment (pi8027) [reply algebra/num_theory/orderedzmod.v]: It looks like `addr_closed` in `algebra.v` was deprecated in e54479b, but it was only halfway done. I will fix it.
